*$
* OPA171
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: OPA171
* Date: 29JAN2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS516F –SEPTEMBER 2010–REVISED APRIL 2018
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Final 1.1
* Updated with unique subckt name, current noise, Vos drift  and edits in claw block
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt OPA171 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=0)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=100e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
XV_OS N039 en_n VOS_DRIFT_OPA171
R1 N041 N040 R_NOISELESS 1e-3 
R2 N048 N049 R_NOISELESS 1e-3 
R3 N063 0 R_NOISELESS 1e12 
C1 N063 0 1
R4 VCC_B N062 R_NOISELESS 1e-3 
C2 N062 0 1e-15
C3 N064 0 1e-15
R5 N064 VEE_B R_NOISELESS 1e-3 
G_PSR N041 N042 N005 N014 1e-3
R6 MID N046 R_NOISELESS 1e12 
VCM_MIN N047 VEE_B -0.1
R7 N047 MID R_NOISELESS 1e12 
VCM_MAX N046 VCC_B -2
XVCM_CLAMP N042 MID N043 MID N046 N047 VCCS_EXT_LIM_OPA171
R8 N043 MID R_NOISELESS 1 
C4 N044 MID 1e-15
R9 N043 N044 R_NOISELESS 1e-3 
V4 N061 OUT 0
R10 MID N051 R_NOISELESS 1e12 
R11 MID N052 R_NOISELESS 1e12 
XIQp VIMON MID VCC MID VCCS_LIM_IQ_OPA171
XIQn MID VIMON VEE MID VCCS_LIM_IQ_OPA171
R12 VCC_B N016 R_NOISELESS 1e3 
R13 N029 VEE_B R_NOISELESS 1e3 
XCLAWp VIMON MID N016 VCC_B VCCS_LIM_CLAWp_OPA171
XCLAWn MID VIMON VEE_B N029 VCCS_LIM_CLAWn_OPA171
R14 VEE_CLP MID R_NOISELESS 1e3 
R15 MID VCC_CLP R_NOISELESS 1e3 
R16 N017 N016 R_NOISELESS 1e-3 
R17 N030 N029 R_NOISELESS 1e-3 
C5 MID N017 1e-15
C6 N030 MID 1e-15
R18 VOUT_S N052 R_NOISELESS 100 
C7 VOUT_S MID 1e-9
G2 MID VCC_CLP N017 MID 1e-3
G3 MID VEE_CLP N030 MID 1e-3
XCL_AMP N013 N037 VIMON MID N020 N027 CLAMP_AMP_LO_OPA171
V_ISCp N013 MID 25
V_ISCn N037 MID -35
XOL_SENSE_OPA171 MID N068 OLN OLP OL_SENSE_OPA171
R19 N037 MID R_NOISELESS 1e9 
R20 N027 MID R_NOISELESS 1 
C8 N028 MID 1e-15
R21 MID N020 R_NOISELESS 1 
R22 MID N013 R_NOISELESS 1e9 
C9 MID N021 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N018 N025 CLAMP_AMP_LO_OPA171
R23 VEE_CLP MID R_NOISELESS 1e9 
R24 N025 MID R_NOISELESS 1 
C10 N026 MID 1e-15
R25 MID N018 R_NOISELESS 1 
R26 MID VCC_CLP R_NOISELESS 1e9 
C11 MID N019 1e-15
XCL_SRC N021 N028 CL_CLAMP MID VCCS_LIM_4_OPA171
XCLAW_SRC N019 N026 CLAW_CLAMP MID VCCS_LIM_3_OPA171
R27 N018 N019 R_NOISELESS 1e-3 
R28 N026 N025 R_NOISELESS 1e-3 
R29 N020 N021 R_NOISELESS 1e-3 
R30 N028 N027 R_NOISELESS 1e-3 
R31 N068 MID R_NOISELESS 1 
R32 N068 SW_OL R_NOISELESS 100 
C12 SW_OL MID 10e-12
R33 VIMON N051 R_NOISELESS 100 
C13 VIMON MID 1e-9
C_DIFF en_p N049 3e-12
C_CMn N049 MID 3e-12
C_CMp MID en_p 3e-12
I_Q VCC VEE 475e-6
I_B N042 MID 8e-12
I_OS N048 MID 4e-12
R36 N035 MID R_NOISELESS 1 
R37 N038 MID R_NOISELESS 1e9 
R38 MID N023 R_NOISELESS 1 
R39 MID N015 R_NOISELESS 1e9 
XGR_AMP N015 N038 N022 MID N023 N035 CLAMP_AMP_HI_OPA171
XGR_SRC N024 N036 CLAMP MID VCCS_LIM_GR_OPA171
C17 MID N024 1e-15
C18 N036 MID 1e-15
V_GRn N038 MID -50
V_GRp N015 MID 50
R40 N023 N024 R_NOISELESS 1e-3 
R41 N036 N035 R_NOISELESS 1e-3 
R42 VSENSE N022 R_NOISELESS 1e-3 
C19 MID N022 1e-15
R43 MID VSENSE R_NOISELESS 1e3 
G_CMR N039 N040 N012 MID 1e-3
G8 MID CLAW_CLAMP N050 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3 
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3 
R47 N059 VCLP R_NOISELESS 100 
C24 MID VCLP 100e-12
E4 N059 MID CL_CLAMP MID 1
E5 N052 MID OUT MID 1
H1 N051 MID V4 1e3
S1 N054 N053 SW_OL MID OL_SW
R52 MID en_p R_NOISELESS 1T 
R53 N049 MID R_NOISELESS 1T
R_CMR N040 N039 R_NOISELESS 1e3 
R59 N062 N063 R_NOISELESS 1e6 
R60 N063 N064 R_NOISELESS 1e6 
R_PSR N042 N041 R_NOISELESS 1e3 
G15 MID VSENSE CLAMP MID 1e-3
E6 VD2 MID N034 MID 1
V_ORp N034 VCLP 3
V_ORn N031 VCLP -3
E7 VD1 MID N031 MID 1
V11 N032 VD1 0
V12 N033 VD2 0
H2 OLN MID V11 -1
H3 OLP MID V12 1
S2 VCC IN- IN- VCC ESD_SW
S3 VCC IN+ IN+ VCC ESD_SW
S4 IN- VEE VEE IN- ESD_SW
S5 IN+ VEE VEE IN+ ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 MID 0 N063 0 1
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R88 VCC_B 0 R_NOISELESS 1 
R89 VEE_B 0 R_NOISELESS 1 
S8 N033 CLAMP CLAMP N033 OR_SW
S9 CLAMP N032 N032 CLAMP OR_SW
Xi_np en_n MID FEMT_OPA171
Xi_nn N049 MID FEMT_OPA171
XVCCS_LIM_1_OPA171 N044 N048 MID N045 VCCS_LIM_1_OPA171
XVCCS_LIM_2_OPA171 N045 MID MID CLAMP VCCS_LIM_2_OPA171
R44 N045 MID R_NOISELESS 1e6 
R58 CLAMP MID R_NOISELESS 1e6 
C20 CLAMP MID 1.484e-7
S10 IN+ IN- IN- IN+ BB_SW
S11 IN- IN+ IN+ IN- BB_SW
R34 en_p IN+ R_NOISELESS 1e-3 
R35 N049 IN- R_NOISELESS 1e-3 
R48 MID N050 R_NOISELESS 1e6 
G1 MID N050 VSENSE MID 1e-6
C14 N050 MID 7.4e-15
XVCVS_LIM_1_OPA171 N056 MID N060 MID VCVS_LIM_1_OPA171
Rx N061 N060 R_NOISELESS 1.65e4 
Rdummy N061 MID R_NOISELESS 1.65e3 
G_Zo MID N053 CL_CLAMP N061 172
Rdc1 N053 MID R_NOISELESS 1 
R49 N053 N054 R_NOISELESS 1e5 
R50 N054 MID R_NOISELESS 1.266e3 
G4 MID N057 N054 MID 80
C15 N054 N053 1.592e-6
R51 N057 MID R_NOISELESS 1 
C16 N067 MID 1.929e-10
R54 N067 N058 R_NOISELESS 10e3 
R55 N058 N057 R_NOISELESS 1.547e6 
C23 N007 N006 1.516e-12
G_adjust1 MID N006 en_p MID 4.75e-4
Rsrc1 N006 MID R_NOISELESS 1 
R56 N007 MID R_NOISELESS 2.104e5 
R57 N007 N006 R_NOISELESS 1e8 
G5 MID N008 N007 MID 1
Rsrc2 N008 MID R_NOISELESS 1 
R61 N009 N008 R_NOISELESS 1e4 
C25 N009 N008 1.516e-8
R62 N009 MID R_NOISELESS 2.104e1 
G6 MID N012 N009 MID 4.762e2
Rsrc3 N012 MID R_NOISELESS 1 
C26 N011 N010 3.745e-10
G_adjust2 MID N010 VEE_B MID 1.588e-1
Rsrc4 N010 MID R_NOISELESS 1 
R63 N011 MID R_NOISELESS 6.296e2 
R64 N011 N010 R_NOISELESS 1e8 
G7 MID N014 N011 MID 1
Rsrc5 N014 MID R_NOISELESS 1 
C27 N003 N004 2.792e-12
G_adjust3 MID N004 VCC_B MID 3.772e-4
Rsrc6 N004 MID R_NOISELESS 1 
R65 N003 MID R_NOISELESS 2.658e5 
R66 N003 N004 R_NOISELESS 1e8 
G10 MID N002 N003 MID 1
Rsrc7 N002 MID R_NOISELESS 1 
R67 N001 N002 R_NOISELESS 1e4 
C28 N001 N002 2.792e-8
R68 N001 MID R_NOISELESS 2.658e1 
G11 MID N005 N001 MID 3.772e2
Rsrc8 N005 MID R_NOISELESS 1 
Xe_n N065 MID VNSE_OPA171
G12 MID N066 N065 N069 1
R69 N066 N069 R_NOISELESS 1e6 
R70 N066 N069 R_NOISELESS 11.786e3 
C29 N066 N069 6.75e-12
R71 N069 N070 R_NOISELESS 15e3 
C30 N070 MID 106e-12
Rpd N070 MID R_NOISELESS 1e12 
E2 en_p en_n N066 MID 1
G13 MID N055 N058 MID 1
R72 N055 MID R_NOISELESS 1 
R73 N056 N055 R_NOISELESS 1e4 
R74 MID N056 R_NOISELESS 5 
C21 N056 N055 3.183e-13
.ends OPA171
* 
.SUBCKT VOS_DRIFT_OPA171  VOS+ VOS-
.PARAM DC = 2.1402E-04
.PARAM POL = 1
.PARAM DRIFT = 3.00E-07
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.subckt CLAMP_AMP_HI_OPA171 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_OPA171
*
.subckt OL_SENSE_OPA171 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends OL_SENSE_OPA171
*
.subckt FEMT_OPA171 1 2
.param NVRF=1
.param RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1e-6
.ends FEMT_OPA171
*
.subckt VCCS_EXT_LIM_OPA171 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_OPA171
*
.subckt VCCS_LIM_1_OPA171 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_OPA171
*
.subckt VCCS_LIM_2_OPA171 VC+ VC- IOUT+ IOUT-
.param Gain = 3.40e-2
.param Ipos = 0.224
.param Ineg = -0.224
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_OPA171
*
.subckt VCCS_LIM_3_OPA171 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 100e-3
.param Ineg = -100e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_OPA171
*
.subckt VCCS_LIM_4_OPA171 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 150e-3
.param Ineg = -150e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_OPA171
*
.subckt VCCS_LIM_CLAWn_OPA171 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 32.92e-6)
+(3.38, 4.1e-5)
+(3.66, 4.2e-5)
+(3.87, 7.8e-5)
+(6.67, 5.64e-4)
+(8, 8.48e-4)
+(15, 2.23e-3)
+(35, 6.3e-3)
.ends VCCS_LIM_CLAWn_OPA171
*
.subckt VCCS_LIM_IQ_OPA171 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_OPA171
*
.subckt VCVS_LIM_1_OPA171 VC+ VC- VOUT+ VOUT-
.param Gain = 2e3
.param Vpos = 1e3
.param Vneg = -1.5e3
E1 VOUT+ VOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Vneg,Vpos)}
.ends VCVS_LIM_1_OPA171
*
.subckt VNSE_OPA171 1 2
.param FLW=20
.param NLF=45
.param NVR=14
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_OPA171
*
.subckt CLAMP_AMP_LO_OPA171 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_OPA171
*
.subckt VCCS_LIM_GR_OPA171 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.5
.param Ineg = -0.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_OPA171
*
.subckt VCCS_LIM_CLAWp_OPA171 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 31.32e-6)
+(7.1, 6.8e-4)
+(14.64, 1.54e-3)
+(25, 2.7e-3)
.ends VCCS_LIM_CLAWp_OPA171
*
